US05173501
While cooling and at 0° C., a solution of 1.0 g of N-hydroxypyrazole in 10 ml of dimethylformamide is dripped into a suspension of 0.3 g of sodium hydride in 10 ml of dimethylformamide. The mixture is stirred for a further hour, after which a solution of 4.7 g of 2-(4-phenoxyphenoxy)-ethyl-p-toluenesulfonate in 50 liters of dimethylformamide is added. The reaction batch is stirred for 12 hours at room temperature and then poured into 250 ml of ice water. The mixture is extracted three times with methyl tert-butyl ether, and the combined extracts are washed with 1N sodium hydroxide solution and then with water. The organic phase is dried with sodium sulfate, the solvent is stripped off under reduced pressure and the residue is chromatographed over silica gel using toluene as developer; there is obtained 2.7 g of N-[2-(4-phenoxyphenoxy)-ethoxy]-pyrazole of melting point 83°-85° C.

reactant | N-hydroxypyrazole | 1.0 g | ON1N=CC=C1 | C3H4N2O
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 2-(4-phenoxyphenoxy)-ethyl-p-toluenesulfonate | 4.7 g | O(C1=CC=CC=C1)C1=CC=C(OCCC2=C(C=CC(=C2)S(=O)(=O)[O-])C)C=C1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 liters | CN(C=O)C | C3H7NO
product | N-[2-(4-phenoxyphenoxy)-ethoxy]-pyrazole | 2.7 g | O(C1=CC=CC=C1)C1=CC=C(OCCON2N=CC=C2)C=C1 | C17H16N2O3
